US07112599B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {5-[1-(3-methyl-butylamino)-ethyl]-oxazol-2-yl}-amide Hydrogen Chloride
To a mixture of 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (5-acetyl-oxazol-2-yl)-amide (100 mg, 0.26 mmol), isoamylamine (0.2 ml), NaOAc, Na2SO4, AcOH(0.1 ml) in methylene chloride was stirred at room temperature for 2 hr. NaBH3CN (80 mg, 3.4 mmol) was added. The mixture was heated at 40–45° C. until all starting material was consumed and product was formed. The mixture was quenched with dilute NaOH, extracted with methylene chloride, then extracted with ethyl acetate. The combined organic layers were dried over Na2SO4 (anhydrous), filtered, and concentrated to give 120 mg of the title compound. The crude material was purified by silica gel column chromatography using 1% to 5% MeOH in methylene chloride as eluent to give the desired product that was prepared to the corresponding HCl salt with HCl in dioxane. The salt was titrated with hexane to give the title compound as a white solid. LC-MS, RT=1.3 min, M−1=449.2.

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (5-acetyl-oxazol-2-yl)-amide | 0.26 mmol, 100 mg | C(C)(=O)C1=CN=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C18H19F2N3O4
reactant | isoamylamine | 0.2 ml | C(CC(C)C)N | C5H13N
reactant | NaOAc | CC(=O)[O-].[Na+]
reactant | Na2SO4 | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | NaBH3CN | 3.4 mmol, 80 mg | [BH3-]C#N.[Na+]
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | AcOH | 0.1 ml | CC(=O)O | C2H4O2
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {5-[1-(3-methyl-butylamino)-ethyl]-oxazol-2-yl}-amide Hydrogen Chloride | 120 mg | Cl.CC(CCNC(C)C1=CN=C(O1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)C | InChI=1S/C23H32F2N4O3.ClH/c1-5-6-19(28-21(30)11-16-9-17(24)12-18(25)10-16)22(31)29-23-27-13-20(32-23)15(4)26-8-7-14(2)3;/h9-10,12-15,19,26H,5-8,11H2,1-4H3,(H,28,30)(H,27,29,31);1H
